US05364866
To a stirred suspension of sodium hydride (0.8 g, 0.017 mol of a 50% oil dispersion) in dimethylformamide (20 ml), under nitrogen, was added dropwise 7-hydroxyindole (2.1 g, 0.0157 mol) in dimethylformamide (20 ml). After complete addition, the reaction was stirred at ambient temperature for 0.5 hour and then cooled to 15° C. To this cooled solution was added, dropwise, 1-bromo-3-chloropropane (2.5 g, 0.0157 mol) in dimethylformamide (5 ml). The reaction was then stirred at ambient temperature for 16 hours. The reaction was poured into water, and the aqueous suspension extracted with ethyl acetate. The ethyl acetate was washed with water, dried (MgSO4), and the solvent was concentrated to afford a dark brown oil. Following flash chromatography on silica gel, 7-(3-chloropropoxy)indole was obtained as a colorless oil, 1.0 g.

reactant | sodium hydride | [H-].[Na+]
reactant | 7-hydroxyindole | 0.0157 mol, 2.1 g | OC=1C=CC=C2C=CNC12 | C8H7NO
reactant | 1-bromo-3-chloropropane | 0.0157 mol, 2.5 g | BrCCCCl | C3H6BrCl
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 7-(3-chloropropoxy)indole | ClCCCOC=1C=CC=C2C=CNC12 | C11H12ClNO
